US04223033
Following the procedure of Example 3, each of methyl (6-phenoxy-2-pyridyl)methanol and methyl[6-(4-fluorophenoxy)-2-pyridyl]methanol is reacted with 2-(2-naphthyl)-3-methyl-butanoic acid to yield methyl (6-phenoxy-2-pyridyl) methyl 2-(2-naphthyl)-3-methylbutanoate and methyl[6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-naphthyl)-3-methylbutanoate, respectively.

reactant | methyl (6-phenoxy-2-pyridyl)methanol | CC(O)C1=NC(=CC=C1)OC1=CC=CC=C1 | C13H13NO2
reactant | methyl[6-(4-fluorophenoxy)-2-pyridyl]methanol | CC(O)C1=NC(=CC=C1)OC1=CC=C(C=C1)F | C13H12FNO2
reactant | 2-(2-naphthyl)-3-methyl-butanoic acid | C1=C(C=CC2=CC=CC=C12)C(C(=O)O)C(C)C | C15H16O2
product | methyl[6-(4-fluorophenoxy)-2-pyridyl]methyl 2-(2-naphthyl)-3-methylbutanoate | C1=C(C=CC2=CC=CC=C12)C(C(=O)OC(C1=NC(=CC=C1)OC1=CC=C(C=C1)F)C)C(C)C | C28H26FNO3
